US07550478B2
N-[3-(4-isopropylpiperazin-1-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide
N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide (0.100 g, 0.30 mmol), Pd2(dba)3 (6 mg, 0.006 mmol), rac-BINAP (11 mg, 0.018 mmol), and cesium carbonate (0.490 g, 1.50 mmol) combined mixed in a dry tube. Isopropylpiperazine (0.170 mL, 1.20 mmol) and 0.70 mL of dry dimethylformamide were added and the tube was sealed. The reaction contents were heated in the Biotage Initiator series microwave at 180° C. for 15 minutes. The reaction contents were partially concentrated and purified by reverse phase HPLC (10-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford the title compound.

reactant | N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide | 0.30 mmol, 0.100 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)NS(=O)(=O)C | C15H11ClN2O3S
reactant | rac-BINAP | 0.018 mmol, 11 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.50 mmol, 0.490 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Isopropylpiperazine | 1.20 mmol, 0.170 mL | C(C)(C)N1CCNCC1 | C7H16N2
catalyst | Pd2(dba)3 | 0.006 mmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dimethylformamide | 0.70 mL | CN(C=O)C | C3H7NO
product | N-[3-(4-isopropylpiperazin-1-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide | C(C)(C)N1CCN(CC1)C=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)NS(=O)(=O)C | C22H26N4O3S
